US06518430B1
treating 2′,6′-dimethoxy-4-nitro-1,1′-biphenyl-2-carboxylate with tribromoborane in a second solvent to provide 1-hydroxy-8-nitro-6H-benzo[c]chromen-6-one;

reactant | 2′,6′-dimethoxy-4-nitro-1,1′-biphenyl-2-carboxylate | COC1=C(C(=CC=C1)OC)C=1C(=CC(=CC1)[N+](=O)[O-])C(=O)[O-]
reactant | tribromoborane | BrB(Br)Br | BBr3
product | 1-hydroxy-8-nitro-6H-benzo[c]chromen-6-one | OC1=C2C3=C(C(OC2=CC=C1)=O)C=C(C=C3)[N+](=O)[O-] | C13H7NO5
